US07737141B2
Synthesis of 1-[(1R,2R)-2-hydroxy-1-(3,4,5-trifluorophenyl)propyl]-3-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}piperidin-2-one
IPEA (4 mL), HOBT (1.11 g), and EDC (1.57 g) were added to a DMF solution (40 mL) of (E)-5-chloro-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]valeric acid trifluoroacetate (CAS Registry No. 870850-40-1, 3.69 g) and (1R,2R)-1-amino-1-(3,4,5-trifluorophenyl)propan-2-ol hydrochloride (1.98 g). This reaction solution was stirred at room temperature for 3.5 hr, and ethyl acetate and a saturated sodium hydrogencarbonate aqueous solution were added thereto. The organic layer was separated, dried over magnesium sulfate, and concentrated under reduced pressure. The obtained solid was suspended in diisopropyl ether and collected by filtration to give 3.16 g of a condensed substance. To a DMF solution (50 mL) of this condensed substance (3.16 g), sodium hydride (containing 40% mineral oil, 278 mg) was added at 0° C. The resulting reaction solution was stirred at room temperature for 15 min, and ethyl acetate and water were added thereto. The organic layer was separated, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH, eluting solvent: heptane to ethyl acetate) to give 2.3 g of the title compound. The physical property values of this compound were as follows:

reactant | IPEA | 4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HOBT | 1.11 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (E)-5-chloro-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]valeric acid trifluoroacetate | FC(C(=O)O)(F)F.ClCCC\C(\C(=O)O)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC
reactant | (1R,2R)-1-amino-1-(3,4,5-trifluorophenyl)propan-2-ol hydrochloride | 1.98 g | Cl.N[C@@H]([C@@H](C)O)C1=CC(=C(C(=C1)F)F)F
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | sodium hydride | 278 mg | [H-].[Na+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | EDC | 1.57 g
product | 1-[(1R,2R)-2-hydroxy-1-(3,4,5-trifluorophenyl)propyl]-3-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}piperidin-2-one | 2.3 g | O[C@@H]([C@@H](C1=CC(=C(C(=C1)F)F)F)N1C(/C(/CCC1)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O)C | C26H26F3N3O3
